US07863314B2
A. 2-(3-Chlorobenzoyl)-3-phenylaminoacrylonitrile
A solution of 3-chlorobenzoylacetonitrile (476 mg, 2.66 mmol, 1.0 eq) and diphenylformamidine (522 mg, 2.66 mmol, 1.0 eq) in 25 mL of toluene was stirred at room temperature for 2h then heated to 100° C. overnight. The solution was cooled and diluted with hexanes. The resulting solid was filtered and dried to provide the desired product (566 mg, 75%). HPLC (4 minute 10-95 gradient) tR 2.97 min; MS m/z 283.2 [M+H]+; 1H NMR (CDCl3), δ 8.06 (d, J=13.2 Hz, 1 H), 7.85 (m, 2 H), 7.46 (m, 4 H), 7.27 (m, 4 H) ppm.

reactant | 3-chlorobenzoylacetonitrile | 2.66 mmol, 476 mg, 1.0 eq | ClC=1C=C(C(=O)CC#N)C=CC1 | C9H6ClNO
reactant | diphenylformamidine | 2.66 mmol, 522 mg, 1.0 eq | C1(=CC=CC=C1)N(C=N)C1=CC=CC=C1 | C13H12N2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Chlorobenzoyl)-3-phenylaminoacrylonitrile | 566 mg, 75% | ClC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11ClN2O
